US07915300B2
To a solution of 4-trifluoromethylpiperidine hydrochloride (1 g, 5.3 mmol) in THF (20 mL) was added methylbromoacetate (0.52 mL, 5.5 mmol) and triethylamine (2.2 mL, 15.8 mmol). The reaction was heated at reflux for 4 h and then diluted with water (50 mL) and the product extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with brine, dried over magnesium sulphate and concentrated in vacuo to yield (4-trifluoromethylpiperidin-1-yl)acetic acid methyl ester as a brown oil (1.19 g, 98%). MS 226 (M+H)+. To a solution of (4-trifluoromethylpiperidin-1-yl)acetic acid methyl ester (1.19 g, 5.3 mmol) in THF (15 mL) at 0° C. was added portion wise lithium aluminium hydride (0.4 g, 10.6 mmol). Once the effervescence had ceased the reaction was heated at 60° C. for 1.5 h. The reaction was quenched with water (10 mL) followed by sodium hydroxide solution (2N, 10 mL) then water (10 mL). The reaction was filtered and the filtrate extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with brine, dried over magnesium sulphate and concentrated in vacuo to yield 2-(4-trifluoromethylpiperidin-1-yl)-ethanol as a brown oil (1.0 g, 99%). MS 198 (M+H)+. To a solution of diisopropylazodicarboxylate (0.58 mL, 2.28 mmol) in DCM (20 mL) was added polymer supported triphenylphosphine (1.14 g, 3.4 mmol). The reaction was stirred at RT for 10 mins. 5-Hydroxybenzofuran-2-carboxylic acid ethyl ester (0.47 g, 2.3 mmol) and 2-(4-trifluoromethylpiperidin-1-yl)-ethanol (0.45 g, 2.28 mmol) were added and the reaction stirred at RT for 16 h. The reaction was filtered and the filtrate concentrated in vacuo. The product was purified on silica eluting with 50% tert-butyl methyl ether in n-heptane to yield 5-[2-(4-trifluoromethylpiperidin-1-yl)ethoxy]benzofuran-2-carboxylic acid ethyl ester as a yellow solid (548 mg, 62%). MS 386 (M+H)+. To a solution of 5-[2-(4-trifluoromethylpiperidin-1-yl)ethoxy]benzofuran-2-carboxylic acid ethyl ester (548 mg, 1.42 mmol) in THF (5 mL) and water (1 mL) was added lithium hydroxide (45 mg, 2.84 mmol). The reaction was stirred at RT for 16 h. The THF was removed in vacuo and the remaining aqueous solution dried overnight in a freeze dryer to yield the crude title compound as a brown solid. MS 358 (M+H)+ which was used directly for coupling with H2N-Leu-P1.

reactant | (4-trifluoromethylpiperidin-1-yl)acetic acid methyl ester | 5.3 mmol, 1.19 g | COC(CN1CCC(CC1)C(F)(F)F)=O | C9H14F3NO2
reactant | lithium aluminium hydride | 10.6 mmol, 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-trifluoromethylpiperidin-1-yl)-ethanol | 1.0 g, 99% | FC(C1CCN(CC1)CCO)(F)F | C8H14F3NO
